US06969716B2
5-[4-Fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine (100 mg, 0.32 mmol) was coupled to 3-fluoro-2-tributylstannylpyridine (146 mg, 0.38 mmol) using the method described in Example 36 to give 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-(3-fluoropyridin-2-yl)-[1,2,4]triazine as a yellow solid (14 mg): δH (400 MHz, CDCl3) 7.38-7.46 (2H, m), 7.52-7.60 (2H, m), 7.64-7.70 (1H, m), 8.44-8.48 (1H, m), 8.54 (1H, dd, J 2.3, 6.7 Hz), 8.59-8.61 (1H, m), 8.71 (1H, d, J 4.3 Hz), 9.79 (1H, s); m/z (ES+) 366.

reactant | 5-[4-Fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine | 0.32 mmol, 100 mg | FC1=C(C=C(C=C1)C=1N=C(N=NC1)SC)C1=NC=CC=C1F | C15H10F2N4S
reactant | 3-fluoro-2-tributylstannylpyridine | 0.38 mmol, 146 mg | FC=1C(=NC=CC1)[Sn](CCCC)(CCCC)CCCC
product | 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-(3-fluoropyridin-2-yl)-[1,2,4]triazine | 14 mg | FC1=C(C=C(C=C1)C=1N=C(N=NC1)C1=NC=CC=C1F)C1=NC=CC=C1F | C19H10F3N5
